US04070366
2,4-Dimethyl-3-acetyl-pyrrole-5-acetic acid
Glyoxalic acid monohydrate (500mg) was added to a solution of 548 mg of 2,4-dimethyl-3-acetyl-pyrrole in 10 ml of aqueous hydriodic acid and 2 ml of hypophosphorous acid. The solution was stirred for one hour at 15° C. The yellow crystalline solid was filtered off, washed with ether, dried, then slurried with 5 ml of water. The solid was again separated, washed with 5 ml of water, dried, and extracted into 40 ml of ether (thimble). When the ether solution was concentrated the produce separated as yellow prisms (550 mg), m.p. 195°-205° C. For analysis, it was recrystallized by dissolving it in 40 parts of cold 50% aqueous acetone, boiling off the acetone, and cooling. It separated as nearly colourless prismatic rods, m.p. 206°-210° C. after changing to prisms at 155° and evolving gas at 175°; presumably it decarboxylated to the 5-methyl derivative before melting. Anal. Calc. for C10H13NO3 : C, 61.52; H, 6.71; N, 7.18; eq. wt. 195. Found: C, 61.35: H, 6.90; N, 7.10; eq. wt. 197.

reactant | Glyoxalic acid monohydrate | 500mg | O.C(C=O)(=O)O
reactant | 2,4-dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
solvent | hydriodic acid | 10 ml | I | HI
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | 2,4-Dimethyl-3-acetyl-pyrrole-5-acetic acid | CC=1NC(=C(C1C(C)=O)C)CC(=O)O | C10H13NO3
